US07378525B2
Preparation of 5-fluoro-1,2,3,4-tetrahydro-naphthalene
A modified procedure of Mirsadehgi et al. was used (J. Org. Chem. 1989, 54, 3091). Boron trifluoride etherate (30.0 g, 26.8 mL, 0.21 mol) was dissolved and stirred in dimethoxyethane (50 mL) and cooled to 0° C. A solution of tetrahydro-1-naphthylamine (25 g, 0.17 mol) in dimethoxyethane (75 mL) was added dropwise and the solution was allowed to warm slowly to room temperature over the period of 1 hour. The reaction was cooled to 0° C. and a solution of t-butyl nitrite (18.0 g, 20.7 mL, 0.17 mol) in dimethoxyethane (75 mL) was added dropwise. The reaction was stirred for 2 hours at 0° C. upon which a large quantity of material crystallized. The solvent was removed in vacuo and chlorobenzene (200 mL) was charged to the reaction flask. The flask was stirred vigorously and heated to 135° C. (Caution: N2 evolution) for 1 hour until gas evolution ceased. The flask was cooled to room temperature and the solvent removed in vacuo. Kughelrohr distillation of the residue (1 mm Hg) afforded a yellow liquid. Wt: 14.4 g (56%). 1H NMR (300 MHz, CDCl3) δ 7.04 (dd, 1H), 6.83 (m, 2H), 2.75 (m, 4H), 1.80 (m, 4H)

reactant | Boron trifluoride etherate | 0.21 mol, 26.8 mL, 30.0 g | B(F)(F)F.CCOCC
reactant | tetrahydro-1-naphthylamine | 0.17 mol, 25 g | C1(CCCC2=CC=CC=C12)N | C10H13N
reactant | t-butyl nitrite | 0.17 mol, 20.7 mL, 18.0 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | dimethoxyethane | 50 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 75 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 75 mL | C(OC)COC | C4H10O2
product | 5-fluoro-1,2,3,4-tetrahydro-naphthalene | FC1=C2CCCCC2=CC=C1 | C10H11F
